US08114987B2
3.917 kg (65 mol) of 1-propanol was placed in a reactor, and the temperature within the reactor was lowered to a temperature between −10° C. to 10° C. Then, 0.523 kg (6.7 mol) of acetyl chloride was added slowly thereto at a temperature between −10° C. to 35° C. To the solution, 1 kg (6.7 mol) of L-arabinose was added, and the mixture was warmed to 35-40° C. and stirred at that temperature for 2-3 hours, and then at 27-32° C. for 20 hours. After completion of the reaction, the solids were filtered and washed with 0.536 kg of 1-propanol. The filtered solids and 3.6 liters of dichloromethane were placed in a reactor and stirred for 1-2 hours. After this, 0.079 kg of pyridine was added thereto, and the mixture was stirred for 30 minutes, filtered, washed with 0.662 liters of dichloromethane, and then dried in a vacuum, thus obtaining 1.024 kg (80% yield) of 1-propoxy-L-arabinose. 1H NMR (D2O): δ 4.85 (d, 1H), 3.90 (m, 1H), 3.85-3.65 (m, 3H), 3.55 (m, 2H), 3.40 (m, 1H), 1.55 (m, 2H), 0.85 (t, 3H).

reactant | 1-propanol | 65 mol, 3.917 kg | C(CC)O | C3H8O
reactant | acetyl chloride | 6.7 mol, 0.523 kg | C(C)(=O)Cl | C2H3ClO
reactant | L-arabinose | 6.7 mol, 1 kg | O=C[C@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
product | 1-propoxy-L-arabinose | 1.024 kg, 80% yield | C(CC)OC(=O)[C@H](O)[C@@H](O)[C@@H](O)CO | C8H16O6
